US07534905B2
Enantioselective allylation of dihydrocinnamaldehyde to give (3R)-1-phenyl-hex-5-en-3-ol: To a solution of (4S,5S)-2-Allyl-2-isopropoxy-3,4-dimethyl-5-phenyl-[1,3,2]oxazasilolidine (0.437 g, 1.5 mmol) in toluene (2.5 mL) was added dihydrocinnamaldehyde (0.132 mL, 1.0 mmol). The mixture was allowed to stir at ambient temperature (˜21° C.) for 18 hours. To this solution was added 1N HCl (4 mL) and EtOAc (4 mL) and the mixture was stirred for 10 min. The layers were separated and the aqueous layer was extracted with EtOAc (3×5 mL). The combined organics were dried over MgSO4, filtered, and concentrated. The residue was purified by chromatography on silica gel (5% EtOAc/hexanes) to afford 0.119 g (69%) of (3R)-1-phenyl-hex-5-en-3-ol in 94% enantiomeric excess (ee).

reactant | (4S,5S)-2-Allyl-2-isopropoxy-3,4-dimethyl-5-phenyl-[1,3,2]oxazasilolidine | 1.5 mmol, 0.437 g | C(C=C)[Si]1(O[C@H]([C@@H](N1C)C)C1=CC=CC=C1)OC(C)C | C16H25NO2Si
reactant | dihydrocinnamaldehyde | 1.0 mmol, 0.132 mL | C(CCC1=CC=CC=C1)=O | C9H10O
reactant | HCl | 1N, 4 mL | Cl | ClH
reactant | EtOAc | 4 mL | CCOC(=O)C | C4H8O2
solvent | toluene | 2.5 mL | C1(=CC=CC=C1)C | C7H8
product | (3R)-1-phenyl-hex-5-en-3-ol | 0.119 g, 69% | C1(=CC=CC=C1)CC[C@H](CC=C)O | C12H16O
